Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
vancomycin / piperacillin / Penicillins
 
Attending: ___.
 
Chief Complaint:
Right foot pain
 
Major Surgical or Invasive Procedure:
___ right foot debridement to bone
___ Lower extremity angiogram
___ R foot debridement, ___ and ___ metatarsal resection

 
History of Present Illness:
___ with hx of DM2 c/b neuropathy and nephropathy, hx of above 
knee amputation of the left leg (___), multiple skin and soft 
tissue infections (MRSA, MSSA, pseudomonas), ESRD (on 
hemodialysis) who presented to the ED from dialysis with 
concerns for right foot infection. He says that over the past 2 
months, he noticed a foul odor from his foot. At that time, he 
first noticed an ulcer on his pinky toe. He also mentioned that 
the area was very itchy. He uses a wheelchair and stated he 
sustained a fall last week and called the ambulance to help with 
getting him up to the chair. He did not present to the ED at 
that time. He endorses frequent falls ___ the past because of 
loss of balance when he transfers from his bed to wheelchair. 
Otherwise, no other trauma that he recalls to the area. 

Patient stated that he last saw his podiatrist 4 months ago for 
a callus on his right foot that was debrided then. During his 
most recent podiatry visit, he stated that his blood sugars had 
been relatively controlled and stated that they typically ranged 
between 90 and 120 mg/dL. At the time he denied any recent 
wounds or ulcerations. 

He denies any fever or chills or weakness. He did have some 
nausea and vomited this morning. He has a home nurse that 
changes his wound dressing and bathes him daily. 

___ the ED, he was given Acetaminophen 1000 mg, IV Morphine 
Sulfate 4 mg, and IV Levofloxacin 750 mg. He also had an x-ray 
of the foot that showed probable osteomyelitis involving the 
proximal phalanx of the pinky toe. Soft tissue gas appears 
localized to the site of lateral forefoot ulcer. 

Podiatry was also consulted and recommended admission to 
medicine as pt is on dialysis due to ESRD. 

 
Past Medical History:
cirrhosis
COPD
Hep C
afib
ESRD on HD
Diabetes mellitus, type 2 complicated by peripheral neuropathy, 
nephropathy
Hypertension
Hyperlipidemia
left AKA
h/o CVA ___ w no residual deficits
 
Social History:
___
Family History:
Brother diagnosed with DM and passed away ___ his ___ from 
unknown cause. Father had colon cancer and had a heart attack 
last year.
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
========================
Vitals: T: 97.7 BP: 114/70 P: 83 R: O2: 100 RA 
General: Alert and oriented. Noticeably itching.
HEENT: Sclera anicteric
Neck: supple, JVP not elevated, no LAD
Lungs: Soft crackles at the left lung base with decreased breath 
sounds on the left.
CV: Irregularly irregular rhythm with no murmurs.
Abdomen: soft, non-tender, non-distended
Ext: There is a malodorous, large necrotic ulcer which probes to 
bone. L AKA with no obvious ulcerations.
Skin: Multiple black and bleeding scabs along the right lower 
extremity, extending from knee to toes. 
Neuro: Absence of touch sensation bilaterally from mid shin to 
toes, medial > lateral sensation deficit. Patient easily 
agitated and defensive. 

DISCHARGE PHYSICAL EXAM 
=======================
Vitals: 98.1 PO 127 / 74 86 18 100 ra
General: Chronically ill appearing
HEENT: Sclera anicteric
Refused lung/heart exam saying "they're fine"
Ext: Right lower extremity wrapped ___ non-soaked bandaging. 
Dressings intact. L AKA with no obvious ulcerations.
Skin: Multiple black and bleeding scabs along the right lower 
extremity, extending from knee to toes.
Psych: Patient easily agitated and defensive. 
 
Pertinent Results:
Admission Labs
==============
___ 12:56PM   LACTATE-2.0
___ 12:35PM   GLUCOSE-118* UREA N-13 CREAT-2.9*# SODIUM-135 
POTASSIUM-3.7 CHLORIDE-93* TOTAL CO2-26 ANION GAP-20
___ 12:35PM   estGFR-Using this
___ 12:35PM   ALT(SGPT)-5 AST(SGOT)-24 CK(CPK)-29* ALK 
PHOS-102 TOT BILI-1.2
___ 12:35PM   CALCIUM-9.3 PHOSPHATE-2.2* MAGNESIUM-2.1
___ 12:35PM   CRP-170.1*
___ 12:35PM   WBC-15.0*# RBC-3.28*# HGB-10.0*# HCT-29.2* 
MCV-89 MCH-30.5 MCHC-34.2 RDW-13.9 RDWSD-45.5
___ 12:35PM   NEUTS-87.2* LYMPHS-5.9* MONOS-5.6 EOS-0.3* 
BASOS-0.3 IM ___ AbsNeut-13.04* AbsLymp-0.88* AbsMono-0.84* 
AbsEos-0.04 AbsBaso-0.04
___ 12:35PM   PLT COUNT-185#

IMAGING: 
========
+ X-ray FOOT AP,LAT & OBL RIGHT ___
Impression: Large soft tissue ulcer along the lateral forefoot 
with probable osteomyelitis involving the proximal phalanx of 
the pinky toe. Soft tissue gas appears localized to the site of 
lateral forefoot ulcer 

+ Arteriogram ___

EXAMINATION: ART EXT (REST ONLY) INDICATION: ___ year old man 
with L AKA here with diabetic ulcers of the right ___ and ___ 
met head// ?vascular disease TECHNIQUE: Noninvasive evaluation 
of the arterial system of the right lower extremities was 
performed with Doppler signal recordings, pulse volume 
recordings and segmental limb the pressure measurements. 
COMPARISON: Lower extremity arterial Doppler ultrasound (PVR) ___ FINDINGS: On the right side, monophasic doppler 
waveforms were seen at the right femoral, popliteal, posterior 
tibial and dorsalis pedis arteries. There was previously a 
triphasic waveform seen at the right femoral level. The right 
ABI is 0.6 ___n above knee amputation was reported for 
the left lower extremity. Pulse volume recordings of the right 
lower extremity demonstrate diffuse loss of the dicrotic notch 
signal with short amplitude from the ankle through the digits.

MICRO: 
======
___ 9:15 pm TISSUE      RIGHT FIFTH METATARSAL. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 
      4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
      2+   ___ per 1000X FIELD):   GRAM POSITIVE ROD(S). 

   TISSUE (Final ___: 
      MIXED BACTERIAL FLORA. 
         This culture contains mixed bacterial types (>=3) so an
         abbreviated workup is performed. Any growth of 
P.aeruginosa,
         S.aureus and beta hemolytic streptococci will be 
reported. IF
         THESE BACTERIA ARE NOT REPORTED, THEY ARE NOT PRESENT 
___ this
         culture. 
      STAPH AUREUS COAG +.    SPARSE GROWTH. 
         SENSITIVITIES PERFORMED ON CULTURE # ___ ___. 


   ANAEROBIC CULTURE (Final ___: 
      MIXED BACTERIAL FLORA. 
         Mixed bacteria are present, which may include anaerobes 
and/or
         facultative anaerobes. The presence of B.fragilis, 
C.perfringens,
         and C.septicum is being ruled out. 
      BACTEROIDES FRAGILIS GROUP.    MODERATE GROWTH. 
         OF TWO COLONIAL MORPHOLOGIES.  BETA LACTAMASE POSITIVE. 


___ 1:50 pm SWAB      Source: R foot. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS ___ CLUSTERS AND ___ 
SHORT
      CHAINS. 
      SMEAR REVIEWED; RESULTS CONFIRMED. 

   WOUND CULTURE (Final ___: 
      MIXED BACTERIAL FLORA. 
         This culture contains mixed bacterial types (>=3) so an
         abbreviated workup is performed. Any growth of 
P.aeruginosa,
         S.aureus and beta hemolytic streptococci will be 
reported. IF
         THESE BACTERIA ARE NOT REPORTED, THEY ARE NOT PRESENT 
___ this
         culture. 
      STAPH AUREUS COAG +.    RARE GROWTH. 
         Staphylococcus species may develop resistance during 
prolonged
         therapy with quinolones.   Therefore, isolates that are 
initially
         susceptible may become resistant within three to four 
days after
         initiation of therapy.  Testing of repeat isolates may 
be
         warranted. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------   0.5 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------<=0.12 S
OXACILLIN-------------   0.5 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S

   ANAEROBIC CULTURE (Final ___: 
      BACTEROIDES FRAGILIS GROUP.    MODERATE GROWTH. 
         OF TWO COLONIAL MORPHOLOGIES.  BETA LACTAMASE POSITIVE. 


DISCHARGE LABS:
===============
___ 06:10AM BLOOD WBC-5.2 RBC-2.82* Hgb-8.1* Hct-25.2* 
MCV-89 MCH-28.7 MCHC-32.1 RDW-14.7 RDWSD-46.2 Plt ___
___ 06:10AM BLOOD Glucose-93 UreaN-20 Creat-4.5* Na-126* 
K-3.8 Cl-88* HCO3-26 AnGap-16
___ 06:10AM BLOOD Calcium-8.4 Phos-3.2 Mg-1.8
 
Brief Hospital Course:
This is a ___ year old male with past medical history of 
diabetes type 2, severe peripheral vascular disease, diabetic 
kidney disease on  ESRD admitted ___ with severe 
infection of R foot, found to have acute osteomyelitis with 
concern for associated necrotizing fasciitis, status post R 
foot excisional debridement, with concern for underlying 
vascular disease, on day of discharge leaving against medical 
advice after declining additional antibiotics and vascular 
intervention, discharged home with plan for additional IV 
antibiotic course to be given at dialysis 

# R foot acute osteomyelitis with associated soft tissue 
infection
# Necrotizing fasciitis
Patient presented from dialysis with severe infection of R 
foot, found to have acute osteomyelitis with concern for 
associated necrotizing fascitis, status post R foot excisional 
debridement, with concern for underlying vascular disease.  He 
was started on broad spectrum antibiotics, 
dapto/aztreonam/clinda due to reported allergy to 
cephalosporins; per ID recommendations, patient underwent 
cefazolin challenge without allergy--he was switched to IV 
Cefazolin (to be given with HD) and PO Flagyl. Culture and bone 
biopsy results grew mixed bacterial flora, bacteroides, and 
MSSA. He clinically improved.  He was recommended for vascular 
management as below, but left against medical advice as below.  
He was evaluated by physical therapy and cleared for home. He 
was discharged with plan for Cefazolin to be administered at 
outpatient ___ facility through ___ and take po Flagyl 
at home through ___.  Wound vac to be managed by ___ with 
podiatry follow up. Patient also scheduled for OPAT follow-up 

# Peripheral Vascular Disease - The patient has a history of 
peripheral vascular disease but was not on medication prior to 
presentation. Given concern that vascular disease contribute to 
ulcer above, vascular was consulted. Angiogram showed moderate 
iliac, femoropopliteal and tibial arterial occlusion. He was 
recommended for angiography with intervention.  Treatment of 
vascular disease was hindered by patient behavioral issues as 
below, including his declining of vascular intervention. 
Medically optimized with initiation of ASA, statin. Ultimately, 
the patient will need elective outpatient angiogram with 
possible intervention. He left AMA prior to angio intervention 
on ___. He was encouraged to follow-up with vascular ___. He 
may also follow-up with his established vascular surgeon.

# Behavioral Issues
# Adjustment disorder
Patient intermittently declined labs and was frequently verbally 
abusive to staff.  Psychiatry evaluation suggested an adjustment 
disorder on top of chronic neurocognitive disorder due to his 
medical comorbidities.  On assessment by team, patient able to 
demonstrate understanding of his clinical situation and state 
risks and benefits of potential treatment options.  On day of 
discharge, he declined 
vascular surgery angiography, and then left against medical 
advice before a dose of IV antibiotics.  

#ESRD on HD (___ @ ___: Patient continued on HD during 
hospital course.

#Atrial Fibrillation: 
CHADsVASc 5. Patient reports he is not on stroke prophylaxis at 
home. Rates controlled this admission 

#Cirrhosis
# Hep C
Follows w/ ___ clinic as outpatient. He was not on any 
medications for his cirrhosis prior to presentation. 

TRANSITIONAL ISSUES: 
====================
# NEW MEDICATIONS: ASA 81 mg daily (for PVD), atorvastatin 40 mg 
daily (for PVD), MetroNIDAZOLE 500 mg PO Q8H and cefazolin 
2g (mon, wed post HD) and cefazolin 3g (fri post HD) through 
___.
[] Patient tolerated cefazolin during this hospital course and 
showed no signs of allergy to cephalosporins. Patient did have 
nausea/vomiting to meropenem. 
[] Patient not on anticoagulation for afib; would continue to 
discuss ongoing need for anticoagulation. 
[] Patient did not want to engage ___ code status discussions. 
Please continue to address as outpatient.
[]Patient left AMA on ___ as he was refusing inpatient 
antibiotics (willing to get them at HD as above).  Demonstrated 
knowledge of risk of infection with 
missing day of antibiotics.
# CONTACT: Sister (___): ___. Of note, patient is ___ 
the process of determining a new HCP but he has not decided 
yet.  (his brother, who was his HCP recently died, and he has 
not decided yet).
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth QPM Disp #*30 Tablet 
Refills:*0 
3.  CeFAZolin 3 g IV POST HD (FR) 
RX *cefazolin ___ dextrose (iso-os) 1 gram/50 mL 3 g IV ___ 
Disp #*3 Intravenous Bag Refills:*0 
4.  CeFAZolin 2 g IV POST HD (MO,WE)  
5.  MetroNIDAZOLE 500 mg PO Q8H 
Do not drink alcohol while on this medicine. 
RX *metronidazole [Flagyl] 500 mg 1 tablet(s) by mouth every 
eight (8) hours Disp #*114 Tablet Refills:*0 
6.Outpatient Lab Work
Weekly CRP, CBC with diff, BUN/Cr: 
Dates: ___

ICD-9: 730.27
ALL LAB RESULTS SHOULD BE SENT TO:
ATTN: ___ CLINIC - FAX: ___
ID RNs: ___ 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___:
# R foot acute osteomyelitis with associated soft tissue 
infection
# Necrotizing fasciitis
# Peripheral vascular disease
# ESRD on HD 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

Why was I ___ the hospital?
- You had a serious infection of your right foot

What happened while I was ___ the hospital?
- You were given antibiotic medicine to treat the infection
- You had surgery to remove the infection and part of your foot

What do I do now that I am leaving the hospital? 
- Please take all of your medicines exactly as prescribed
- Please follow-up with your doctors ___ instructions below)
- Please continue to go to dialysis to take your antibiotic 
medicine

You left against medical advice as you demonstrated knowledge of 
missing a day of antibiotics.  Please follow up with your 
providers at dialysis on ___.

We Wish You The Best,
- Your ___ Team
 
Followup Instructions:
___